US06057329
N-(3,4,5-Trimethoxyphenyl)-5H-indeno[1,2, d]pyrimidine-2-amine
The 2-(dimethylaminomethylene)-indan-1-one starting material was prepared from 1-indanone (3.17 g, 24 mmol) and N,N-dimethylformamide diethyl acetal (21 ml, 120 mmol) to give the desired product as golden yellow crystals (2.61 g) m.p. 156-161°. MS (ES+) 188 (MH+, 100%).

reactant | 1-indanone | 24 mmol, 3.17 g | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | N,N-dimethylformamide diethyl acetal | 120 mmol, 21 ml | C(C)OC(N(C)C)OCC | C7H17NO2
product | 2-(dimethylaminomethylene)-indan-1-one | CN(C)C=C1C(C2=CC=CC=C2C1)=O | C12H13NO
